US07569337B2
Toluene4-sulfonic acid 2-[(3-methoxy-phenyl)-methyl-amino]-ethyl ester
181 mg (1 mmol) 2-[(3-methoxy-phenyl)-methyl-amino]-ethanol is dissolved in 8 mL dichloromethane and after addition of 0.2 mL (2.5 eq.) pyridine cooled below 5° C. A solution of 489 mg (1.5 eq) p-toluenesulfonic acid anhydride in 4 mL dichloromethane is added dropwise and the reaction mixture stirred at room temperature for 30 minutes before ice and 100 mL TBME are added, followed by 70 mL of a cold aqueous solution of sodium bicarbonate. The organic phase is separated, washed with saline, then dried over sodium sulfate and evaporated. The residue is taken up in toluene and evaporated to yield 350 mg (quant.) crude desired product as a brownish oil. This compound is used without further purification.

reactant | 2-[(3-methoxy-phenyl)-methyl-amino]-ethanol | 1 mmol, 181 mg | COC=1C=C(C=CC1)N(CCO)C | C10H15NO2
reactant | pyridine | 0.2 mL, 2.5 eq. | N1=CC=CC=C1 | C5H5N
reactant | p-toluenesulfonic acid anhydride | 489 mg, 1.5 eq | C1(=CC=C(C=C1)S(=O)(=O)OS(=O)(=O)C1=CC=C(C=C1)C)C | C14H14O5S2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 8 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
solvent | TBME | 100 mL | CC(C)(C)OC | C5H12O
product | Toluene4-sulfonic acid 2-[(3-methoxy-phenyl)-methyl-amino]-ethyl ester | COC=1C=C(C=CC1)N(CCOS(=O)(=O)C1=CC=C(C=C1)C)C | C17H21NO4S
